US05428047
7.0 g (39.1 mmol) of 2,3-dichloro-thiophenol are introduced into 50 ml of absolute tetrahydrofuran, the mixture is treated with 1.2 g (0.039 mmol) of 80% sodium hydride dispersion in portions and stirred for 2 hours at reflux temperature. The mixture is subsequently treated with 4.5 g (33.9 mmol) of 3-chloromethyl-5-methyl-1,2,4-oxadiazole at room temperature and stirred until the reaction is complete (approximately 10 to 15 hours). The sodium chloride which has precipitated is subsequently separated off and the entire batch is concentrated in vacuo. The crude product which remains can be chromatographed over a silica gel column (silica gel 60-Merck, particle size: 0.040 to 0.063 mm) using toluene as the eluent. 3.8 g (36.5% of theory) of 3-(2,3-dichlorophenylthiomethyl)-5-methyl-1,2,4-oxadiazole are obtained.

reactant | 2,3-dichloro-thiophenol | 39.1 mmol, 7.0 g | ClC1=C(C=CC=C1Cl)S | C6H4Cl2S
reactant | sodium hydride | 0.039 mmol, 1.2 g | [H-].[Na+]
reactant | 3-chloromethyl-5-methyl-1,2,4-oxadiazole | 33.9 mmol, 4.5 g | ClCC1=NOC(=N1)C | C4H5ClN2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-(2,3-dichlorophenylthiomethyl)-5-methyl-1,2,4-oxadiazole | 3.8 g, 36.5% | ClC1=C(C=CC=C1Cl)SCC1=NOC(=N1)C | C10H8Cl2N2OS
